US04088652
Preparation of 3-Acetyl-1 -(p-nitrophenyl)-3-azabicyclo[3.1.0]hexane
To a suspension of 3-acetyl-1-phenyl-3-azabicyclo[3.1.0]hexane in concentrated sulfuric acid is added concentrated nitric acid during 15 minutes at 0°-10° C. The resulting mixture is stirred at room temperature for 15 minutes and then poured onto ice. The product, 3-acetyl-1-(p-nitrophenyl)-3-azabicyclo[3.1.0]hexane, is collected by filtration.

reactant | 3-acetyl-1-phenyl-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=CC=C1 | C13H15NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-Acetyl-1 -(p-nitrophenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H14N2O3
